US08420670B2
(8-Chlor-2-methylquinolin-4-yl)-(3,4-dichlorobenzyl)-amine
Preparation was made using a similar procedure as described in example 1, method 1.3. Starting materials were 4,8-dichloro-2-methylquinoline and 3,4-dichlorobenzylamine.

reactant | 4,8-dichloro-2-methylquinoline | ClC1=CC(=NC2=C(C=CC=C12)Cl)C | C10H7Cl2N
reactant | 3,4-dichlorobenzylamine | ClC=1C=C(CN)C=CC1Cl | C7H7Cl2N
product | (8-Chlor-2-methylquinolin-4-yl)-(3,4-dichlorobenzyl)-amine | ClC=1C=CC=C2C(=CC(=NC12)C)NCC1=CC(=C(C=C1)Cl)Cl | C17H13Cl3N2
